US07268157B2
Preparation of 2-(1-methyl-3-oxo-3-phenyl-propenylamino)-3-(4-hydroxyphenyl)-propionic acid methyl ester
To a solution of L-tyrosine methyl ester (4.00 g, 20.51 mmol) in methanol (150 ml) is added 1-benzoylacetone (3.66 g, 22.56 mmol), then the mixture is heated to reflux for 24 h. The solvent is evaporated under a vacuum. To the residue is added ethanol (50 ml), then the ethanol is distilled off under atmospheric pressure. The crude product is purified by silica gel chromatography using hexane/EtOAc (4:1) as eluent to give the title compound (6.80 g, 98%).

reactant | L-tyrosine methyl ester | 20.51 mmol, 4.00 g | COC([C@@H](N)CC1=CC=C(C=C1)O)=O | C10H13NO3
reactant | 1-benzoylacetone | 22.56 mmol, 3.66 g | C(C1=CC=CC=C1)(=O)CC(=O)C | C10H10O2
solvent | methanol | 150 ml | CO | CH4O
product | 2-(1-methyl-3-oxo-3-phenyl-propenylamino)-3-(4-hydroxyphenyl)-propionic acid methyl ester | 6.80 g, 98% | COC(C(CC1=CC=C(C=C1)O)NC(=CC(C1=CC=CC=C1)=O)C)=O | C20H21NO4
